US07718683B2
A 5 mL scintillation vial was charged with 2-hydrazinopyrimidine (61 mg, 0.55 mmol), 2-nitro-5-chlorobenzaldehyde (112 mg, 0.06 mmol) and MeOH (500 μL) and heated to 60° C. for 30 minutes. The MeOH was then removed in vacuo and the resultant solid was washed with Et2O. The crude solid (30 mg) was then suspended in CH2Cl2 (1 mL) and iodobenzene diacetate (39 mg, 0.12 mmol) was added. The reaction was stirred at room temperature for 30 minutes after which the solvent was removed in vacuo. The resultant residue was then dissolved in a 10% solution of saturated NH4Cl(aq) in EtOH and iron (19 mg, 0.33 mmol) was then added and the reaction was stirred at 80° C. for 4 h. The solvent was then removed in vacuo and the product was purified by silica gel chromatography to afford 4-chloro-2-[1,2,4]triazolo[4,3-a]pyrimidin-3-yl-phenylamine as a light yellow oil.

reactant | 2-hydrazinopyrimidine | 0.55 mmol, 61 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | 2-nitro-5-chlorobenzaldehyde | 0.06 mmol, 112 mg | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)Cl | C7H4ClNO3
reactant | MeOH | 500 μL | CO | CH4O
reactant | iodobenzene diacetate | 0.12 mmol, 39 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | NH4Cl | [NH4+].[Cl-]
solvent | EtOH | CCO | C2H6O
catalyst | iron | 0.33 mmol, 19 mg | [Fe] | Fe
product | 4-chloro-2-[1,2,4]triazolo[4,3-a]pyrimidin-3-yl-phenylamine | ClC1=CC(=C(C=C1)N)C1=NN=C2N1C=CC=N2 | C11H8ClN5
